US09422298B2
To a solution of 6-(4-(tetrahydro-2H-pyran-4-yloxy)pyrido[3,2-d]pyrimidin-6-yl)-2-(N,N-bis(boc-amino))pyrazine (Intermediate 10) (0.845 g, 1.61 mmol) in DCM (8.05 ml) was slowly added TFA (2.48 ml, 32.2 mmol) at 0° C. After stirring for 4 hours at room temperature, the reaction mixture was quenched with 1N NaOH, and extracted with DCM. The organic layers were dried over MgSO4, filtered and concentrated in vacuo to give 6-(4-(tetrahydro-2H-pyran-4-yloxy)pyrido[3,2-d]pyrimidin-6-yl)pyrazin-2-amine (0.27 g, 52%) as a yellow solid. To a solution of 6-(4-(tetrahydro-2H-pyran-4-yloxy)pyrido[3,2-d]pyrimidin-6-yl)pyrazin-2-amine (0.1 g, 0.308 mmol) in pyridine (1.542 ml) was slowly added benzenesulfonyl chloride (0.050 ml, 0.385 mmol) at 0° C. After stirring for 6 hours at room temperature, the reaction mixture was diluted with DCM and quenched with 1N aq. HCl. The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was washed with EtOAc and the resulting solid was collected by filtration to give N-(6-(4-(tetrahydro-2H-pyran-4-yloxy)pyrido[3,2-d]pyrimidin-6-yl)pyrazin-2-yl)benzenesulfonamide (0.02 g, 14%) as a yellow solid. 1H-NMR (DMSO-d6, Varian 400 MHz) δ 1.82-1.90 (2H, m), 2.14-2.17 (2H, m), 3.57-3.62 (2H, m), 3.92-4.06 (2H, m), 5.59-5.63 (1H, m), 7.63-7.65 (3H, m), 8.10 (2H, dd, J=2.0, 7.6 Hz), 8.43 (1H, s), 8.49 (1H, d, J=8.8 Hz), 8.55 (1H, d, J=8.8 Hz), 8.89 (1H, s), 9.21 (1H, s), 11.96 (1H, s). m/z=465.0 [M+1]+.

reactant | 6-(4-(tetrahydro-2H-pyran-4-yloxy)pyrido[3,2-d]pyrimidin-6-yl)pyrazin-2-amine | 0.308 mmol, 0.1 g | O1CCC(CC1)OC=1C2=C(N=CN1)C=CC(=N2)C2=CN=CC(=N2)N | C16H16N6O2
reactant | benzenesulfonyl chloride | 0.385 mmol, 0.050 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 1.542 ml | N1=CC=CC=C1 | C5H5N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(6-(4-(tetrahydro-2H-pyran-4-yloxy)pyrido[3,2-d]pyrimidin-6-yl)pyrazin-2-yl)benzenesulfonamide | 0.02 g, 14% | O1CCC(CC1)OC=1C2=C(N=CN1)C=CC(=N2)C2=CN=CC(=N2)NS(=O)(=O)C2=CC=CC=C2 | C22H20N6O4S
